US07253186B2
4-Piperidone hydrochloride monohydrate (4.0 g, 26.0 mmol) was dissolved in dichloromethane (130 mL). After addition of triethylamine (8.66 g, 85.8 mmol), the mixture was stirred for 10 min and then cooled to 0° C. Trifluoroacetic anhydride (12.0 g, 57.2 mmol) was added dropwise under stirring. After 2 h at room temperature, the reaction was stopped by addition of water (100 mL), and the aqueous phase was extracted with dichloromethane (2×100 mL). The combined organic phases were dried over Na2SO4, filtered and concentrated to give 1-(trifluoroacetyl)-4-piperidone (5.07 g, 100%).

reactant | 4-Piperidone hydrochloride monohydrate | 26.0 mmol, 4.0 g | O.Cl.N1CCC(CC1)=O
reactant | triethylamine | 85.8 mmol, 8.66 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 57.2 mmol, 12.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 mL | O | H2O
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 1-(trifluoroacetyl)-4-piperidone | 5.07 g, 100% | FC(C(=O)N1CCC(CC1)=O)(F)F | C7H8F3NO2
